US08258134B2
A solution of 2-(2-ethyl-butyl)-malonic acid diethyl ester (4.78 g, 19.5 mmol) in ethanol (43.5 mL) was treated with a solution of potassium hydroxide (3.3 g, 58.7 mmol) in water (10.9 mL). The reaction was then heated to 105° C. for 6 h. After this time, the reaction was concentrated in vacuo. The residue was diluted with water (50 mL) which was then acidified with a 2N aqueous hydrochloric acid solution and then extracted with a 90/10 methylene chloride/methanol solution (3×50 mL). The combined organics were dried over sodium sulfate, filtered and concentrated in vacuo to afford 2-(2-ethyl-butyl)-malonic acid (3.55 g, 96%) as an off-white solid, which was used without further purification; EI+-HRMS m/e calcd for C9H16O4 [M+Na]+ 211.0941, found 211.0941. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.79 (t, J=7.4 Hz, 6H) 1.09-1.39 (m, 5H) 1.65 (t, J=7.1 Hz, 2H) 3.22 (t, J=7.5 Hz, 1H) 12.65 (br. s., 2H).

reactant | 2-(2-ethyl-butyl)-malonic acid diethyl ester | 19.5 mmol, 4.78 g | C(C)OC(C(C(=O)OCC)CC(CC)CC)=O | C13H24O4
reactant | potassium hydroxide | 58.7 mmol, 3.3 g | [OH-].[K+]
solvent | ethanol | 43.5 mL | C(C)O | C2H6O
solvent | water | 10.9 mL | O | H2O
product | 2-(2-ethyl-butyl)-malonic acid | 3.55 g, 96% | C(C)C(CC(C(=O)O)C(=O)O)CC | C9H16O4
